US06306887B1
D. [1-(5-Diethoxymethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester
A mixture of [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid benzyl ester (1.2 g, 4.5 mmol), 3,3-diethoxy-propyne (1.5 g, 11.4 mmol), CH2Cl2 (40 ml) and TEA (6 drops) was stirred until homogeneous, then Clorox bleach (20 ml) was added. After stirring vigorously for 12 h the layers were separated and the aqueous layer was extracted with CH2Cl2 (3×). The combined organics were dried over Na2SO4; filtered; and concentrated under reduced pressure to give a yellow oil. Purification by Flash 40(small) chromatography eluting with 10% EtOAc in hexanes gave 920 mg of the title compound as a colorless oil. MS [M+1]+ 391.

reactant | [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid benzyl ester | 4.5 mmol, 1.2 g | C(C1=CC=CC=C1)OC(NC(CC(C)C)C=NO)=O | C14H20N2O3
reactant | 3,3-diethoxy-propyne | 11.4 mmol, 1.5 g | C(C)OC(C#C)OCC | C7H12O2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | [1-(5-Diethoxymethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester | 920 mg | C(C1=CC=CC=C1)OC(NC(CC(C)C)C1=NOC(=C1)C(OCC)OCC)=O | C21H30N2O5
